US05262420
Preparation of 1-(3-trifluoromethylphenyl)-3-(4-pyridyl)-butane
1.0 g (9.35 mmol) of 4-ethylpyridine and 2.37 g (9.35 mmol) of 3-trifluoromethylphenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 0.40 g of the desired compound (yield: 15.3%).

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 3-trifluoromethylphenethyl bromide | 9.35 mmol, 2.37 g | FC(C=1C=C(CCBr)C=CC1)(F)F | C9H8BrF3
product | 1-(3-trifluoromethylphenyl)-3-(4-pyridyl)-butane | 0.40 g, yield: 15.3% | FC(C=1C=C(C=CC1)CCC(C)C1=CC=NC=C1)(F)F | C16H16F3N
